US09403760B2
3) Synthesis of (E)-methyl 2-(N-((benzyloxy)carbonyl)tetradec-2-enamido)acetate
A solution of lithium bis(trimethylsilyl)amide (44.8 ml, 1M solution) in anhydrous THF (50 ml) was cooled to −70° C. under argon in a dry flask with stirring. To the solution was added Cbz glycine methyl ester (10.0 g) in THF (20 mL) dropwise while maintaining the reaction temperature at −70° C. After 30 min stirring at −70° C., a solution of the (E)-tetradec-2-enoyl chloride (12.1 g) in THF (10 mL) was added slowly at −70° C. The reaction mixture was stirred at −70° C. for 1 hr and then allowed to warm up to 0° C. The reaction was quenched with aqueous citric acid solution (5%, 300 ml) and warmed up to room temperature. The crude product was extracted with ethyl acetate (500 ml). The ethyl acetate phase was washed with DI water twice and dried with sodium sulfate. The solvent was removed under vacuum to yield oily residue, which was purified by silica gel column chromatography. Pure product was obtained after column purification as a clear oil (12.8 g, 66.2% yield). Proton NMR(CDCl3) δ 0.88 (t, 3H), 1.26 (m, 16H), 1.43 (m, 2H), 2.22 (m, 2H), 3.67 (s, 3H), 4.53 (s, 2H), 5.24 (s, 2H), 6.94 (d, 1H), 7.05 (td, 1H). 7.36 (m, 5H).

reactant | lithium bis(trimethylsilyl)amide | 1M, 44.8 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Cbz glycine methyl ester | 10.0 g | COC(CNC(=O)OCC1=CC=CC=C1)=O | C11H13NO4
reactant | (E)-tetradec-2-enoyl chloride | 12.1 g | C(\C=C\CCCCCCCCCCC)(=O)Cl | C14H25ClO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-methyl 2-(N-((benzyloxy)carbonyl)tetradec-2-enamido)acetate | 12.8 g, 66.2% yield | C(C1=CC=CC=C1)OC(=O)N(C(\C=C\CCCCCCCCCCC)=O)CC(=O)OC | C25H37NO5
